US06759554B2
N-(3,5-Dimethylphenyl)-2-azetidinone
Using general procedure A, 2-azetidinone (88 mg, 1.24 mmol) was coupled with 5-iodo-m-xylene (150 μL, 1.04 mmol). The crude product was purified by flash chromatography on silica gel (2×15 cm; hexane-ethyl acetate 1:1; 15 mL fractions). Fractions 5-10 provided 173 mg (95% yield) of the product as a white solid. 1H NMR (400 MHz, CDCl3): δ 7.01 (s, 2H), 6.76 (s, 1H), 3.61 (t, J=4.5 Hz, 2H), 3.10 (t, J=4.5 Hz, 2H), 2.32 (s, 6H).

reactant | 2-azetidinone | 1.24 mmol, 88 mg | N1C(CC1)=O | C3H5NO
reactant | 5-iodo-m-xylene | 1.04 mmol, 150 μL | IC=1C=C(C=C(C1)C)C | C8H9I
product | N-(3,5-Dimethylphenyl)-2-azetidinone | 173 mg, 95% yield | CC=1C=C(C=C(C1)C)N1C(CC1)=O | C11H13NO
